US06521754B2
Thiomorpholine-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
Conversion of 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol (100 mg, 0.377 mg) with phosgene (20% in toluene, 0.2 ml) and thiomorpholine (0.045 ml, 0.47 mmol) using the general procedure D affords the product as white solid in 73% yield. MS: m/e=395 (M+H+).

reactant | 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol | 100 mg | NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C12H15N3O2S
reactant | phosgene | 0.2 ml | C(=O)(Cl)Cl | CCl2O
reactant | thiomorpholine | 0.47 mmol, 0.045 ml | N1CCSCC1 | C4H9NS
product | Thiomorpholine-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | 73% yield | COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCSCC2)N2CCOCC2 | C17H22N4O3S2
